US06528503B2
To a stirred solution of 2(R)-amino-3,3-dimethylbutyric acid (5.0 g, 38.1 mmol) in 80 mL of 1 N sulfuric acid at −10° C. was slowly added a solution of sodium nitrite (5.26 g, 76.2 mmol) dissolved in 25 mL of water. After the addition was complete, the reaction was gradually warmed to ambient temperature and stirred for 20 h. Sodium chloride (10 g) was added and the solution was extracted twice with 100 mL portions of ether. The combined organic layers were dried over anhydrous sodium sulfate and filtered. The filtrate solvent was removed under reduced pressure. The residue was purified by preparative HPLC using a Chiralpak AD column (5 cm×50 cm) using 5% ethanol in 95% hexanes with 0.2% TFA as the mobile phase at a flow rate of 80 mL/min. The product-containing fractions were concentrated in vacuo. 2(R)-Hydroxy-3,3-dimethylbutanoic acid was obtained as an oil that crystallized on standing (2.2 g; 44%); 1H NMR, 400 MHz, CDCl3, 6.0-7.0 ppm (v br s, 2H), 3.91 ppm (s, 1H), 1.03 ppm (s, 9H).

reactant | 2(R)-amino-3,3-dimethylbutyric acid | 38.1 mmol, 5.0 g | N[C@@H](C(=O)O)C(C)(C)C | C6H13NO2
reactant | sodium nitrite | 76.2 mmol, 5.26 g | N(=O)[O-].[Na+]
reactant | Sodium chloride | 10 g | [Cl-].[Na+]
solvent | sulfuric acid | 1 N, 80 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 25 mL | O | H2O
product | 2(R)-Hydroxy-3,3-dimethylbutanoic acid | O[C@@H](C(=O)O)C(C)(C)C | C6H12O3
